US04723039
2-[3-[(Phenylethyl)methylamino]-propyl]-2-isopropylphenylacetaldehyde
180 ml of a 1M solution of diisobutylaluminum hydride in hexane were added dropwise, at -5° C., to a solution of 33.4 g (0.1 mole) of 2-[3-[(phenylethyl)-methylamino]-propyl]-isopropylphenylacetonitrile in 400 ml of diethyl ether. The mixture was stirred for 1.5 hours, after which 500 ml of 10% strength sulfuric acid were added. 30 g of tartaric acid were introduced, the mixture was rendered alkaline with concentrated potassium hydroxide solution, and the ether phase was separated off and washed several times with sodium chloride solution. After the ether phase had been dried over sodium sulfate, the ether was distilled off, the remaining oily residue was dissolved in 300 ml of ethyl acetate, and hydrochloric acid in isopropanol was added. The mixture was left to stand overnight, after which the precipitated hydrochloride was filtered off under suction.

reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 2-[3-[(phenylethyl)-methylamino]-propyl]-isopropylphenylacetonitrile | 0.1 mole, 33.4 g | C1(=CC=CC=C1)CCN(CCCC(C#N)(C1=CC=CC=C1)C(C)C)C | C23H30N2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | tartaric acid | 30 g | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
reactant | potassium hydroxide | [OH-].[K+]
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | 400 ml | C(C)OCC | C4H10O
product | 2-[3-[(Phenylethyl)methylamino]-propyl]-2-isopropylphenylacetaldehyde | C1(=CC=CC=C1)CCN(CCCC1(C(C=CC=C1)CC=O)C(C)C)C | C23H33NO
